US08957069B2
2-(4-Methoxyphenyl)-4-(2,2,4,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)morpholine
By using 5-bromo-2,2,4,7-tetramethyl-2,3-dihydro-1-benzofuran (510 mg, 2.00 mmol) synthesized in Reference example 103 and 2-(4-methoxyphenyl)morpholine (773 mg, 4.00 mmol), the reaction was carried out in the same manner as Example 1 to synthesize the title compound 412 mg (yield 56%).

reactant | 5-bromo-2,2,4,7-tetramethyl-2,3-dihydro-1-benzofuran | 2.00 mmol, 510 mg | BrC=1C=C(C2=C(CC(O2)(C)C)C1C)C | C12H15BrO
reactant | 2-(4-methoxyphenyl)morpholine | 4.00 mmol, 773 mg | COC1=CC=C(C=C1)C1CNCCO1 | C11H15NO2
product | 2-(4-Methoxyphenyl)-4-(2,2,4,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)morpholine | 412 mg, yield 56% | COC1=CC=C(C=C1)C1CN(CCO1)C=1C=C(C2=C(CC(O2)(C)C)C1C)C | C23H29NO3
